US07776875B2
Preparation of Intermediate of 2-(4-chloro-2-formyl-phenoxy)-2-ethyl-butyric acid methyl ester
A solution of 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-2-ethyl-butyric acid methyl ester (16 g, 48.8 mmol) in trifluoroacetic acid (20 mL) was stirred at room temperature for 3 h. Then the mixture was concentrated and the residue was partitioned between EtOAc and water. The organic layer was washed with IN NaOH solution, water, dried over anhydrous Na2SO4 and concentrated to give the title compound (13 g).

reactant | 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-2-ethyl-butyric acid methyl ester | 48.8 mmol, 16 g | COC(C(CC)(CC)OC1=C(C=C(C=C1)Cl)C1OCCO1)=O | C16H21ClO5
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-chloro-2-formyl-phenoxy)-2-ethyl-butyric acid methyl ester | 13 g | COC(C(CC)(CC)OC1=C(C=C(C=C1)Cl)C=O)=O | C14H17ClO4
